US08183239B2
3-Diethylamino-N-{4-[4-(ethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-fluoro-phenyl}-propionamide
A mixture of 2-[4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-N-ethyl-2-phenyl-acetamide (22 mg, 0.06 mmol), 3-diethylaminopropionic acid hydrochloride (13 mg, 0.07 mmol) and PyBroP (34 mg, 0.07 mmol) in DCM (2 mL) was treated with iPr2NEt (0.032 mL, 0.19 mmol). After 18 h, the mixture was washed with satd. aq. NaHCO3 and brine, dried (MgSO4), and concentrated to give an oil, which was purified by PTLC to give a beige solid (17 mg, 56%). MS (ESI): mass calcd. for C27H38FN5O2, 483.62. m/z found, 484.4 [M+H]+. 1H NMR (CDCl3): 11.15 (s, 1H), 7.38-7.37 (m, 1H), 7.36-7.35 (m, 1H), 7.33-7.32 (m, 3H), 7.31-7.28 (m, 1H), 7.13-7.09 (m, 2H), 6.85 (t, J=9.0, 1H), 3.88 (s, 1H), 3.38-3.33 (m, 2H), 3.06-3.04 (m, 4H), 2.79-2.76 (m, 1H), 2.69-2.65 (m, 4H), 2.59-2.58 (m, 4H), 2.50-2.47 (m, 1H), 1.40-1.38 (m, 1H), 1.35-1.32 (t, J=7.3, 1H), 1.77-1.22 (m, 9H).

reactant | 2-[4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-N-ethyl-2-phenyl-acetamide | 0.06 mmol, 22 mg | NC1=CC(=C(C=C1)N1CCN(CC1)C(C(=O)NCC)C1=CC=CC=C1)F | C20H25FN4O
reactant | 3-diethylaminopropionic acid hydrochloride | 0.07 mmol, 13 mg | Cl.C(C)N(CCC(=O)O)CC
reactant | PyBroP | 0.07 mmol, 34 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.19 mmol, 0.032 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-Diethylamino-N-{4-[4-(ethylcarbamoyl-phenyl-methyl)-piperazin-1-yl]-3-fluoro-phenyl}-propionamide | 17 mg, 56% | C(C)N(CCC(=O)NC1=CC(=C(C=C1)N1CCN(CC1)C(C1=CC=CC=C1)C(NCC)=O)F)CC | C27H38FN5O2
